US07459477B2
Production of N-{2-(1,4-dimethylpentyl)-4-[2,2,2-trifluoro-1-(trifluoromethyl)ethyl]phenyl}-5-chloro-1,3-dimethylpyrazole-4-carboxamide (Compound No. 1-146)
5-Chloro-1,3-dimethylpyrazole-4-carboxylic acid (349 mg, 2 mmol) was dissolved in thionyl chloride (10 ml), and the solution was stirred at reflux temperature for 2 hours. After concentration under reduced pressure, the resulting acid chloride was added to a solution of 2-(1,4-dimethylpentyl)-4-[2,2,2-trifluoro-1-(trifluoromethyl)ethyl]aniline (682 mg, 2 mmol) and triethylamine (300 mg, 3 mmol) in tetrahydrofuran (20 ml) under ice-cooling, and the resulting mixture was stirred at reflux temperature for 2 hours. The reaction mixture was diluted with ethyl acetate and then washed with water. The organic layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure, and the resulting residue was separated and purified by silica gel column chromatography (hexane:ethyl acetate=2:3) to obtain 200 mg of the desired compound.

reactant | 5-Chloro-1,3-dimethylpyrazole-4-carboxylic acid | 2 mmol, 349 mg | ClC1=C(C(=NN1C)C)C(=O)O | C6H7ClN2O2
reactant | 2-(1,4-dimethylpentyl)-4-[2,2,2-trifluoro-1-(trifluoromethyl)ethyl]aniline | 2 mmol, 682 mg | CC(CCC(C)C)C1=C(N)C=CC(=C1)C(C(F)(F)F)C(F)(F)F | C16H21F6N
reactant | triethylamine | 3 mmol, 300 mg | C(C)N(CC)CC | C6H15N
solvent | thionyl chloride | 10 ml | S(=O)(Cl)Cl | Cl2OS
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-{2-(1,4-dimethylpentyl)-4-[2,2,2-trifluoro-1-(trifluoromethyl)ethyl]phenyl}-5-chloro-1,3-dimethylpyrazole-4-carboxamide | 200 mg, Yield: 41% | CC(CCC(C)C)C1=C(C=CC(=C1)C(C(F)(F)F)C(F)(F)F)NC(=O)C=1C(=NN(C1Cl)C)C | C22H26ClF6N3O
